US09388138B2
2-(Quinolin-2-ylethynyl)phenol Hydrochloride
A solution of hydrochloric acid (2.0 M in diethyl ether, 0.40 mL, 0.82 mmol, 1.0 eq.) was added dropwise to a stirred suspension of 2-(quinolin-2-ylethynyl)phenol (200 mg, 0.82 mmol, 1.0 eq.) in dry diethyl ether (10 mL). The mixture was stirred at r.t. for 30 min and was filtered. The solids were washed with diethyl ether (3×5 mL) and were dried under reduced pressure yielding the product (197 mg, 85% yield) as a bright yellow solid; 1H NMR (400 MHz, DMSO-d6) δ 6.89 (t, J=7.5 Hz, 1H, Ar), 7.03 (d, J=8.0 Hz, 1H, Ar), 7.33 (t, J=8.0 Hz, 1H, Ar), 7.54 (d, J=7.5 Hz, 1H, Ar), 7.71 (t, J=7.5 Hz, 1H, Ar), 7.81 (d, J=8.5 Hz, 1H, Ar), 7.90 (t, J=7.0 Hz, 1H, Ar), 8.09 (d, J=8.0 Hz, 1H, Ar), 8.10 (d, J=8.0 Hz, 1H, Ar), 8.59 (d, J=8.5 Hz, 1H, Ar), 10.42 (br s, 1H, OH).

reactant | hydrochloric acid | 0.82 mmol, 2.0 M, 0.40 mL, 1.0 eq. | Cl | ClH
reactant | 2-(quinolin-2-ylethynyl)phenol | 0.82 mmol, 200 mg, 1.0 eq. | N1=C(C=CC2=CC=CC=C12)C#CC1=C(C=CC=C1)O | C17H11NO
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 2-(Quinolin-2-ylethynyl)phenol Hydrochloride | 197 mg, 85% yield | Cl.N1=C(C=CC2=CC=CC=C12)C#CC1=C(C=CC=C1)O | InChI=1S/C17H11NO.ClH/c19-17-8-4-2-6-14(17)10-12-15-11-9-13-5-1-3-7-16(13)18-15;/h1-9,11,19H;1H
